US06211234B1
A mixture of ethyl (E)-2-benzyl-3-(2,4-dibenzyloxyphenyl)acrylate (1.5 g) and aqueous potassium hydroxide in methanol (50 mL, 15%) is stirred and heated at reflux for 3 hours. The reaction mixture is diluted with water (30 mL) plus 3 N potassium hydroxide solution (5 mL), acidified to pH 1 by addition of concentrated hydrochloric acid and the resulting solid filtered. Recrystallisation from a mixture of ethyl acetate and pentane gives E-2-benzyl-3-(2,4-dibenzyloxyphenyl)acrylic acid (1.13 g) as a white solid, m.p. 175-176° C. [Elemental analysis:- C,79.7; H,5.72%. Calculated:- C,80.0; H,5.82%].

reactant | ethyl (E)-2-benzyl-3-(2,4-dibenzyloxyphenyl)acrylate | 1.5 g | C(C1=CC=CC=C1)/C(/C(=O)OCC)=C\C1=C(C=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C32H30O4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
solvent | potassium hydroxide | 3 N, 5 mL | [OH-].[K+]
product | E-2-benzyl-3-(2,4-dibenzyloxyphenyl)acrylic acid | 1.13 g | C(C1=CC=CC=C1)/C(/C(=O)O)=C\C1=C(C=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C30H26O4
